US09351965B2
Preparation of 1-(4-Fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamido)cyclohexanecarboxylic acid
Sodium hydroxide in water (4 M solution, 1 ml, 4 mmol) was added into a solution of methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamido)cyclohexanecarboxylate (0.32 mmol) in methanol (0.5 ml) and THF (2 ml). The reaction solution was stirred at 70° C. for 16 h, and 1.0 N HCl solution was added dropwise to adjust pH to 4. The resulting solution was extracted with EtOAc (10 ml, twice). The combined organic layers were dried over sodium sulfate, filtered, concentrated, and purified using HPLC to give the titled compound. LC-MS: 487.21 [M+11]. LC/MS RT=2.36 min.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | water | 4 mmol, 4 M, 1 ml | O | H2O
reactant | methyl 1-(4-fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamido)cyclohexanecarboxylate | 0.32 mmol | FC1=CC=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NNC3=CC2)C2=CC(=NC=C2)C)C(=O)OC)C=C1 | C29H29FN4O3
reactant | HCl | 1.0 N | Cl | ClH
solvent | methanol | 0.5 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(4-Fluorobenzyl)-3-(3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamido)cyclohexanecarboxylic acid | FC1=CC=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NNC3=CC2)C2=CC(=NC=C2)C)C(=O)O)C=C1 | C28H27FN4O3
